US06849378B2
Synthesis of 2-Hydroxy-2-adamantylethyl Vinyl Ether (I)
(Step-2) Magnesium metal(2.6 g) and anhydrous tetrahydrofuran (hereinafter referred to as THF(100 mL)) were added to a round bottom flask. Next, after dripping a small quantity of dibromoethane into the round bottom flask containing the resulting mixture to promote the reaction, 3-chloropropyl vinyl ether (12 g, 0.1 mol) and anhydrous THF(100 mL) were added drop-wise thereto. Then, the mixture was reacted for 2 hours. After dripping an adequate quantity of THF containing 2-adamantanone (15 g, 0.1 mol) in the mixture, the resulting mixture was refluxed for 12 hours. After the reaction was completed, the reaction mixture was slowly dissolved in excessive water and neutralized with thin H2SO4 solution. Then, the organic layer was extracted from the reaction solution using an adequate quantity of diethyl ether and then dried with anhydrous sodium sulfate. Next, after evaporating the solvent to obtain an oily residue using a rotary evaporator, the product was separated using a column chromatography method (hexane:ethyl acetate=3:1). (Yield: 60%)

reactant | Magnesium | 2.6 g | [Mg] | Mg
reactant | dibromoethane | BrC(C)Br | C2H4Br2
reactant | 3-chloropropyl vinyl ether | 0.1 mol, 12 g | C(=C)OCCCCl | C5H9ClO
reactant | 2-adamantanone | 0.1 mol, 15 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | water | O | H2O
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Hydroxy-2-adamantylethyl Vinyl Ether | C(=C)OCCC1(C2CC3CC(CC1C3)C2)O | C14H22O2
